US05736487
29(a) 2-Bromomethylbenzothiazole
476 mg of dibenzoyl peroxide were added to a solution of 5.87 g of 2-methylbenzothiazole and 15.4 g of N-bromosuccinimide in 60 ml of carbon tetrachloride at room temperature and the resulting mixture was stirred under reflux for 9 hours. At the end of this time, the reaction mixture was filtered and the resulting filtrate was concentrated by evaporation under reduced pressure to give a crude crystalline solid which was purified by column chromatography through silica gel using a 10:1 by volume mixture of hexane and ethyl acetate to give 6.10 g (yield 68%) of the title compound as a solid having a metling point of 43° to 45° C.

reactant | 2-methylbenzothiazole | 5.87 g | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | N-bromosuccinimide | 15.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | carbon tetrachloride | 60 ml | C(Cl)(Cl)(Cl)Cl | CCl4
catalyst | dibenzoyl peroxide | 476 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
product | 2-Bromomethylbenzothiazole | 6.10 g, yield 68% | BrCC=1SC2=C(N1)C=CC=C2 | C8H6BrNS
